** Name: SymmetricalOpAmp7

.MACRO SymmetricalOpAmp7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=115e-6
mDiodeTransistorNmos2 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=22e-6
mDiodeTransistorNmos3 outFirstStage outFirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=115e-6
mDiodeTransistorNmos4 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=2e-6 W=17e-6
mDiodeTransistorPmos5 ibias ibias sourcePmos sourcePmos pmos4 L=3e-6 W=24e-6
mDiodeTransistorPmos6 innerComplementarySecondStage innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=6e-6 W=364e-6
mDiodeTransistorPmos7 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=25e-6
mNormalTransistorNmos8 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner nmos4 L=1e-6 W=70e-6
mNormalTransistorNmos9 inputVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=2e-6 W=157e-6
mNormalTransistorNmos10 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=1e-6 W=70e-6
mNormalTransistorNmos11 SecondStageYinnerTransconductance outFirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=177e-6
mNormalTransistorNmos12 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=177e-6
mNormalTransistorPmos13 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=269e-6
mNormalTransistorPmos14 inOutputTransconductanceComplementarySecondStage ibias sourcePmos sourcePmos pmos4 L=3e-6 W=444e-6
mNormalTransistorPmos15 out inputVoltageBiasXXpXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias pmos4 L=1e-6 W=418e-6
mNormalTransistorPmos16 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=269e-6
mNormalTransistorPmos17 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=3e-6 W=65e-6
mNormalTransistorPmos18 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=3e-6 W=521e-6
mNormalTransistorPmos19 SecondStageYinnerStageBias innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=6e-6 W=364e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp7

** Expected Performance Values: 
** Gain: 101 dB
** Power consumption: 5.22501 mW
** Area: 10189 (mu_m)^2
** Transit frequency: 35.2691 MHz
** Transit frequency with error factor: 35.2687 MHz
** Slew rate: 33.3638 V/mu_s
** Phase margin: 65.3172°
** CMRR: 155 dB
** negPSRR: 54 dB
** posPSRR: 71 dB
** VoutMax: 4.45001 V
** VoutMin: 0.320001 V
** VcmMax: 4.02001 V
** VcmMin: -0.00999999 V


** Expected Currents: 
** NormalTransistorNmos: 253.835 muA
** NormalTransistorPmos: -27.4639 muA
** NormalTransistorPmos: -186.459 muA
** DiodeTransistorNmos: 110.07 muA
** DiodeTransistorNmos: 110.07 muA
** NormalTransistorPmos: -220.138 muA
** NormalTransistorPmos: -110.069 muA
** NormalTransistorPmos: -110.069 muA
** NormalTransistorNmos: 168.56 muA
** NormalTransistorNmos: 168.561 muA
** NormalTransistorPmos: -168.559 muA
** NormalTransistorPmos: -168.56 muA
** DiodeTransistorPmos: -168.559 muA
** NormalTransistorNmos: 168.56 muA
** NormalTransistorNmos: 168.561 muA
** DiodeTransistorNmos: 27.4631 muA
** DiodeTransistorNmos: 186.46 muA
** DiodeTransistorPmos: -253.834 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.17101  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputTransconductanceComplementarySecondStage: 0.723001  V
** inSourceTransconductanceComplementarySecondStage: 0.555001  V
** innerComplementarySecondStage: 4.04001  V
** inputVoltageBiasXXpXX1: 3.68601  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** outVoltageBiasXXnXX0: 0.600001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.21501  V
** innerStageBias: 4.40001  V
** innerTransconductance: 0.150001  V
** inner: 0.150001  V


.END