** Name: SymmetricalOpAmp83

.MACRO SymmetricalOpAmp83 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=3e-6 W=9e-6
mDiodeTransistorNmos2 inStageBiasComplementarySecondStage inStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=4e-6 W=247e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=105e-6
mDiodeTransistorPmos4 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=21e-6
mDiodeTransistorPmos5 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mDiodeTransistorPmos6 outFirstStage outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mNormalTransistorNmos7 inOutputTransconductanceComplementarySecondStage outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=190e-6
mNormalTransistorNmos8 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=10e-6 W=276e-6
mNormalTransistorNmos9 innerComplementarySecondStage inStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=4e-6 W=247e-6
mNormalTransistorNmos10 out innerComplementarySecondStage inStageBiasComplementarySecondStage inStageBiasComplementarySecondStage nmos4 L=4e-6 W=160e-6
mNormalTransistorNmos11 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=10e-6 W=276e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=3e-6 W=105e-6
mNormalTransistorNmos13 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=9e-6
mNormalTransistorPmos14 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=1e-6 W=422e-6
mNormalTransistorPmos15 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=422e-6
mNormalTransistorPmos16 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=29e-6
mNormalTransistorPmos17 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=29e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp83

** Expected Performance Values: 
** Gain: 100 dB
** Power consumption: 3.38701 mW
** Area: 10333 (mu_m)^2
** Transit frequency: 33.4051 MHz
** Transit frequency with error factor: 33.4046 MHz
** Slew rate: 33.5832 V/mu_s
** Phase margin: 64.1713°
** CMRR: 143 dB
** negPSRR: 57 dB
** posPSRR: 64 dB
** VoutMax: 4.28001 V
** VoutMin: 0.810001 V
** VcmMax: 4.27001 V
** VcmMin: 1.36001 V


** Expected Currents: 
** NormalTransistorNmos: 212.303 muA
** DiodeTransistorPmos: -57.5009 muA
** DiodeTransistorPmos: -57.5009 muA
** NormalTransistorNmos: 115.002 muA
** DiodeTransistorNmos: 115.003 muA
** NormalTransistorNmos: 57.5001 muA
** NormalTransistorNmos: 57.5001 muA
** NormalTransistorNmos: 170.074 muA
** DiodeTransistorNmos: 170.073 muA
** NormalTransistorPmos: -170.073 muA
** NormalTransistorPmos: -170.072 muA
** NormalTransistorNmos: 170.074 muA
** NormalTransistorPmos: -170.073 muA
** NormalTransistorPmos: -170.072 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -212.302 muA


** Expected Voltages: 
** ibias: 1.20501  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputTransconductanceComplementarySecondStage: 3.68601  V
** inSourceTransconductanceComplementarySecondStage: 3.86601  V
** inStageBiasComplementarySecondStage: 0.585001  V
** innerComplementarySecondStage: 1.21301  V
** out: 2.5  V
** outFirstStage: 3.86601  V
** outSourceVoltageBiasXXnXX1: 0.603001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.93801  V
** innerTransconductance: 4.40001  V
** inner: 4.40001  V
** inner: 0.601001  V


.END