** Name: SymmetricalOpAmp9

.MACRO SymmetricalOpAmp9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=3e-6 W=6e-6
mDiodeTransistorNmos2 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=66e-6
mDiodeTransistorNmos3 outFirstStage outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=66e-6
mDiodeTransistorNmos4 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=4e-6 W=4e-6
mDiodeTransistorPmos5 ibias ibias sourcePmos sourcePmos pmos4 L=3e-6 W=24e-6
mDiodeTransistorPmos6 inOutputStageBiasComplementarySecondStage inOutputStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=12e-6
mNormalTransistorNmos7 inOutputStageBiasComplementarySecondStage outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=4e-6 W=14e-6
mNormalTransistorNmos8 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner nmos4 L=3e-6 W=109e-6
mNormalTransistorNmos9 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=3e-6 W=109e-6
mNormalTransistorNmos10 SecondStageYinnerTransconductance outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=200e-6
mNormalTransistorNmos11 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=200e-6
mNormalTransistorPmos12 inOutputTransconductanceComplementarySecondStage ibias sourcePmos sourcePmos pmos4 L=3e-6 W=100e-6
mNormalTransistorPmos13 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=5e-6 W=279e-6
mNormalTransistorPmos14 innerComplementarySecondStage inOutputStageBiasComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner pmos4 L=1e-6 W=600e-6
mNormalTransistorPmos15 out inOutputStageBiasComplementarySecondStage SecondStageYinnerStageBias SecondStageYinnerStageBias pmos4 L=1e-6 W=600e-6
mNormalTransistorPmos16 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=5e-6 W=279e-6
mNormalTransistorPmos17 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=3e-6 W=83e-6
mNormalTransistorPmos18 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=3e-6 W=600e-6
mNormalTransistorPmos19 SecondStageYinnerStageBias innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=210e-6
mNormalTransistorPmos20 StageBiasComplementarySecondStageYinner innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=210e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp9

** Expected Performance Values: 
** Gain: 90 dB
** Power consumption: 6.19201 mW
** Area: 8119 (mu_m)^2
** Transit frequency: 33.7831 MHz
** Transit frequency with error factor: 33.7833 MHz
** Slew rate: 75.053 V/mu_s
** Phase margin: 72.1927°
** CMRR: 143 dB
** negPSRR: 40 dB
** posPSRR: 43 dB
** VoutMax: 4.49001 V
** VoutMin: 0.5 V
** VcmMax: 3.82001 V
** VcmMin: -0.00999999 V


** Expected Currents: 
** NormalTransistorNmos: 121.84 muA
** NormalTransistorPmos: -35.0699 muA
** NormalTransistorPmos: -42.2429 muA
** DiodeTransistorNmos: 126.76 muA
** DiodeTransistorNmos: 126.76 muA
** NormalTransistorPmos: -253.518 muA
** NormalTransistorPmos: -126.759 muA
** NormalTransistorPmos: -126.759 muA
** NormalTransistorNmos: 380.928 muA
** NormalTransistorNmos: 380.927 muA
** NormalTransistorPmos: -380.927 muA
** NormalTransistorPmos: -380.928 muA
** NormalTransistorPmos: -384.773 muA
** NormalTransistorPmos: -384.774 muA
** NormalTransistorNmos: 384.774 muA
** NormalTransistorNmos: 384.773 muA
** DiodeTransistorNmos: 35.0691 muA
** DiodeTransistorNmos: 42.2421 muA
** DiodeTransistorPmos: -121.839 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.17101  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputStageBiasComplementarySecondStage: 3.68601  V
** inOutputTransconductanceComplementarySecondStage: 0.907001  V
** inSourceTransconductanceComplementarySecondStage: 0.555001  V
** innerComplementarySecondStage: 4.11601  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** outVoltageBiasXXnXX0: 1.04601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.41901  V
** innerStageBias: 4.43801  V
** innerTransconductance: 0.150001  V
** inner: 4.43901  V
** inner: 0.150001  V


.END