** Name: SymmetricalOpAmp1

.MACRO SymmetricalOpAmp1 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outFirstStage outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=43e-6
mDiodeTransistorNmos2 inTransconductanceComplementarySecondStage inTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=43e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=6e-6 W=6e-6
mDiodeTransistorPmos4 inStageBiasComplementarySecondStage inStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=6e-6 W=443e-6
mNormalTransistorNmos5 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=132e-6
mNormalTransistorNmos6 inStageBiasComplementarySecondStage inTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=132e-6
mNormalTransistorPmos7 out inStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=6e-6 W=443e-6
mNormalTransistorPmos8 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=584e-6
mNormalTransistorPmos9 inTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=584e-6
mNormalTransistorPmos10 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=6e-6 W=168e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp1

** Expected Performance Values: 
** Gain: 47 dB
** Power consumption: 5.89301 mW
** Area: 9046 (mu_m)^2
** Transit frequency: 83.2031 MHz
** Transit frequency with error factor: 83.2034 MHz
** Slew rate: 86.2854 V/mu_s
** Phase margin: 64.1713°
** CMRR: 98 dB
** negPSRR: 54 dB
** posPSRR: 174 dB
** VoutMax: 4.42001 V
** VoutMin: 0.200001 V
** VcmMax: 3.52001 V
** VcmMin: 0.0400001 V


** Expected Currents: 
** DiodeTransistorNmos: 142.148 muA
** DiodeTransistorNmos: 142.148 muA
** NormalTransistorPmos: -284.294 muA
** NormalTransistorPmos: -142.147 muA
** NormalTransistorPmos: -142.147 muA
** NormalTransistorNmos: 436.361 muA
** NormalTransistorPmos: -436.36 muA
** DiodeTransistorPmos: -438.024 muA
** NormalTransistorNmos: 438.025 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 3.68601  V
** in1: 2.5  V
** in2: 2.5  V
** inStageBiasComplementarySecondStage: 3.85901  V
** inTransconductanceComplementarySecondStage: 0.602001  V
** out: 2.5  V
** outFirstStage: 0.602001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.22901  V


.END