** Name: SymmetricalOpAmp114

.MACRO SymmetricalOpAmp114 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=2e-6 W=7e-6
mDiodeTransistorNmos2 innerComplementarySecondStage innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=3e-6 W=382e-6
mDiodeTransistorNmos3 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=10e-6 W=41e-6
mDiodeTransistorPmos4 out2FirstStage out2FirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=82e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=145e-6
mNormalTransistorNmos6 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=220e-6
mNormalTransistorNmos7 out outVoltageBiasXXnXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=10e-6 W=349e-6
mNormalTransistorNmos8 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=220e-6
mNormalTransistorNmos9 out2FirstStage ibias sourceNmos sourceNmos nmos4 L=2e-6 W=592e-6
mNormalTransistorNmos10 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=2e-6 W=51e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=2e-6 W=529e-6
mNormalTransistorNmos12 SecondStageYinnerStageBias innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=3e-6 W=382e-6
mNormalTransistorPmos13 inSourceTransconductanceComplementarySecondStage out2FirstStage FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=1e-6 W=600e-6
mNormalTransistorPmos14 innerComplementarySecondStage out2FirstStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=1e-6 W=171e-6
mNormalTransistorPmos15 out out2FirstStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=171e-6
mNormalTransistorPmos16 out1FirstStage out2FirstStage FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=1e-6 W=600e-6
mNormalTransistorPmos17 outVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=327e-6
mNormalTransistorPmos18 FirstStageYinnerTransistorStack1Load1 out1FirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=200e-6
mNormalTransistorPmos19 FirstStageYinnerTransistorStack2Load1 inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=197e-6
mNormalTransistorPmos20 SecondStageYinnerTransconductance out1FirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=291e-6
mNormalTransistorPmos21 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=291e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp114

** Expected Performance Values: 
** Gain: 90 dB
** Power consumption: 14.6181 mW
** Area: 14393 (mu_m)^2
** Transit frequency: 85.1301 MHz
** Transit frequency with error factor: 85.1306 MHz
** Slew rate: 108.363 V/mu_s
** Phase margin: 60.1606°
** CMRR: 139 dB
** negPSRR: 55 dB
** posPSRR: 48 dB
** VoutMax: 4.26001 V
** VoutMin: 0.650001 V
** VcmMax: 5.08001 V
** VcmMin: 0.790001 V


** Expected Currents: 
** NormalTransistorNmos: 73.0181 muA
** NormalTransistorNmos: 832.579 muA
** NormalTransistorPmos: -162.655 muA
** NormalTransistorPmos: -371.196 muA
** NormalTransistorPmos: -371.197 muA
** NormalTransistorPmos: -371.196 muA
** NormalTransistorPmos: -371.197 muA
** NormalTransistorNmos: 742.394 muA
** NormalTransistorNmos: 371.197 muA
** NormalTransistorNmos: 371.197 muA
** NormalTransistorNmos: 548.009 muA
** NormalTransistorNmos: 548.008 muA
** NormalTransistorPmos: -548.008 muA
** NormalTransistorPmos: -548.007 muA
** DiodeTransistorNmos: 554.903 muA
** NormalTransistorPmos: -554.902 muA
** NormalTransistorPmos: -554.903 muA
** DiodeTransistorNmos: 162.656 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -73.0189 muA
** DiodeTransistorPmos: -832.578 muA


** Expected Voltages: 
** ibias: 0.588001  V
** in1: 2.5  V
** in2: 2.5  V
** inSourceTransconductanceComplementarySecondStage: 4.11001  V
** innerComplementarySecondStage: 0.631001  V
** out: 2.5  V
** out1FirstStage: 4.11301  V
** out2FirstStage: 3.68601  V
** outVoltageBiasXXnXX1: 1.09301  V
** outVoltageBiasXXpXX0: 4.06201  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load1: 4.43601  V
** innerTransistorStack2Load1: 4.43601  V
** sourceTransconductance: 1.89501  V
** innerStageBias: 0.259001  V
** innerTransconductance: 4.67201  V
** inner: 4.67401  V


.END